US05998463
Preparation 6 3-Amino-N-phenyl-benzamide.
10% Palladium on carbon (2.0 g) was added to a solution of 3-nitro-N-phenyl-benzamide (20 g, 83 mmol) in ethanol (225 mL) and the mixture was hydrogenated at 45 psi for 2 hours. The mixture was filtered through diatomaceous earth and concentrated to give a colorless solid (mp 118-120° C., 16 g, 90%).

reactant | 3-nitro-N-phenyl-benzamide | 83 mmol, 20 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H10N2O3
catalyst | Palladium on carbon | 2.0 g | [Pd] | Pd
solvent | ethanol | 225 mL | C(C)O | C2H6O
product | 3-Amino-N-phenyl-benzamide | 16 g, 90% | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
